US05127936
A mixture of 7.0 g (71 mmol) 3,5-diamino-1,2,4-triazole and 12.0 g (74 mmol) benzoylacetone in 100 ml of glacial acetic acid was heated at reflux 2 hours. After cooling, methylene chloride (200 ml) was added followed by the addition of excess water. The organic layer was separated, washed with water, brine, dried over magensium sulfate and evaporated in vacuo to give a solid residue to which ethyl acetate was added. Filtering gave 16.0 g of crude 5-methyl-7-phenyl-1,2,4-triazolo[1,5-a]pyrimidin-2-amine (m.p. 246°-250° C.) which was used directly in the next step.

reactant | 3,5-diamino-1,2,4-triazole | 71 mmol, 7.0 g | NC1=NNC(=N1)N | C2H5N5
reactant | benzoylacetone | 74 mmol, 12.0 g | C(C1=CC=CC=C1)(=O)CC(C)=O | C10H10O2
reactant | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
reactant | water | O | H2O
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | 5-methyl-7-phenyl-1,2,4-triazolo[1,5-a]pyrimidin-2-amine | 16.0 g | CC1=NC=2N(C(=C1)C1=CC=CC=C1)N=C(N2)N | C12H11N5
